US06416733B1
To a dry flask was added aluminum chloride (0.857 g, 6.42 mmol). The flask was cooled to less than 0° C. with an ice/ethanol bath. Ether (15 mL) was added, and the reaction was stirred for 5 min until the aluminum chloride dissolved. Lithium aluminum hydride (0.244 g, 6.42 mmol) was then added, and the reaction was heated to reflux. 6-[(4,6-Diphenyl-2-pyridinyl)oxy]-hexanenitrile (1.0 g, 2.92 mmol) was dissolved in ether (5 mL) and added dropwise to the refluxing solution. After addition was complete, the reaction was stirred overnight at room temperature. The reaction was then quenched with water. 6 N Aqueous sulfuric acid was added until a clear solution formed. This mixture was then extracted with ether (3×). The aqueous layer was then cooled in an ice bath and basified to pH 14 with 50% aq. NaOH. This was then extracted with ether (4×). The organic layer was then washed with saturated NaCl, dried over magnesium sulfate, and evaporated to give 0.7184 g (71%) of 1-amino-6-[(4,6-diphenyl-2-pyridinyl)oxy]-hexane as an oil. ESMS: Calcd. for C23H26N2O, 346.20; Found, 347.3 (M+H)+1.

reactant | aluminum chloride | 6.42 mmol, 0.857 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Lithium aluminum hydride | 6.42 mmol, 0.244 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-[(4,6-Diphenyl-2-pyridinyl)oxy]-hexanenitrile | 2.92 mmol, 1.0 g | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC#N | C23H22N2O
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | Ether | 15 mL | CCOCC | C4H10O
product | 1-amino-6-[(4,6-diphenyl-2-pyridinyl)oxy]-hexane | 0.7184 g, 71% | NCCCCCCOC1=NC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H26N2O
